US06329370B1
1-Furan-2-ylmethyl-6-methoxy-4-pyrrolidin-1-yl-phthalazine (Compound 78)
A solution of 4-chloro-1-furan-2-ylmethyl-6-methoxy-phthalazine (500 mg, 1.82 mmoles), prepared as described in example 127, in DMF (10 ml) was added under stirring with pyrrolidine (0.91 ml, 10.92 mmoles), and heated at 60° C. overnight. The mixture was diluted with ethyl acetate, washed three times with water, anhydrified over Na2SO4 and dried. The residue was crystallised from ethyl ether/petrolatum 1:1 (10 ml) to give 420 mg of the title compound (yield: 75%). m.p.: 148-149° C.

reactant | 4-chloro-1-furan-2-ylmethyl-6-methoxy-phthalazine | 1.82 mmoles, 500 mg | ClC1=NN=C(C2=CC=C(C=C12)OC)CC=1OC=CC1 | C14H11ClN2O2
reactant | pyrrolidine | 10.92 mmoles, 0.91 ml | N1CCCC1 | C4H9N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Furan-2-ylmethyl-6-methoxy-4-pyrrolidin-1-yl-phthalazine | 420 mg, yield: 75% | O1C(=CC=C1)CC1=NN=C(C2=CC(=CC=C12)OC)N1CCCC1 | C18H19N3O2
